US06933388B2
2-Cyano-3-(5′-ethoxy-2′-methoxycarbonyl-4′-nitrophenyl)amino-2-propenoic acid t-butyl ester
A 3-L round-bottomed flask under N2 equipped with an overhead stirrer, a condenser and a thermocouple is charged with 2-[[(dimethylamino)methylene]amino]-4-ethoxy-5-nitrobenzoic acid, methyl ester (68 g, 230 mmol), t-butanol (500 mL) followed by t-butylcyanoacetate (65 g, 460 mmol). The reaction mixture is heated to reflux. After 4 hours the reaction is cooled to room temperature and the suspension is filtered. The filter cake is washed with heptane (2×100 mL) and dried under vacuum (50 mm Hg) at 40° C. to provide the title compound as a beige solid (83 g, 91% yield, >98% purity by NMR). 1H NMR (300 MHz, DMSO-d6): 12.7 (d, J=12.9 Hz, 1H), 8.77 (d, J=12.9 Hz, 1H), 8.50 (s, 1H), 7.47 (s, 1H), 4.37 (q, J=7 Hz, 2H), 3.91 (s, 3H), 1.52 (s, 9H), 1.40 (t, J=7 Hz, 3H).

reactant | 2-[[(dimethylamino)methylene]amino]-4-ethoxy-5-nitrobenzoic acid, methyl ester | 230 mmol, 68 g | CN(C)C=NC1=C(C(=O)OC)C=C(C(=C1)OCC)[N+](=O)[O-] | C13H17N3O5
reactant | t-butylcyanoacetate | 460 mmol, 65 g | C(C)(C)(C)OC(CC#N)=O | C7H11NO2
solvent | t-butanol | 500 mL | C(C)(C)(C)O | C4H10O
product | 2-Cyano-3-(5′-ethoxy-2′-methoxycarbonyl-4′-nitrophenyl)amino-2-propenoic acid t-butyl ester | 83 g, 91% yield | C(C)(C)(C)OC(C(=CNC1=C(C=C(C(=C1)OCC)[N+](=O)[O-])C(=O)OC)C#N)=O | C18H21N3O7
